US07247734B2
This compounds was synthesised in the same manner as described above. 6-Ethyl-7-hydroxy-3-phenyl-chromen-4-one (0.29 g, 1.1 mmol), hydrazine hydrate (4 ml), ethanol (20 ml). The crude product was columned to give 4-Ethyl-6-(4-phenyl-1H-pyrazol-3-yl)-benzene-1,3-diol as a off white solid (0.23 g, 74.73%); Rf 0.7 Cf SM 0.9 ethyl acetate/hexane (70/30).

reactant | 6-Ethyl-7-hydroxy-3-phenyl-chromen-4-one | 1.1 mmol, 0.29 g | C(C)C=1C=C2C(C(=COC2=CC1O)C1=CC=CC=C1)=O | C17H14O3
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Ethyl-6-(4-phenyl-1H-pyrazol-3-yl)-benzene-1,3-diol | C(C)C1=C(C=C(C(=C1)C1=NNC=C1C1=CC=CC=C1)O)O | C17H16N2O2
